US08278316B2
3-(4-(2-Hydroxy-2-methylpropoxy)-3-methoxyphenyl)-6-(2-phenylcyclopropyl)pyrimidin-4(3H)-one
Tricyclohexyl phosphine (10 μL, 9.24 μmol) was added under nitrogen to a mixture of 6-chloro-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-pyrimidin-4(3H)-one Part A of Procedure 11 (10 mg, 0.031 mmol), 2-phenylcyclopropylboronic acid (5.5 mg, 0.034 mmol), palladium (II) acetate (2 mg, 6.16 μmol), and potassium phosphate, tribasic (20 mg, 0.09 mmol) in toluene (0.16 mL), and water (0.07 mL). The reaction stirred at 100° C. for 2 hours. The reaction mixture was filtered and concentrated to afford the crude product. The crude was purified using HPLC (C18 column/10:90:0.1 to 90:10:0.1 MeOH—H2O-TFA) to afford the desired product 3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-6-(2-phenylcyclopropyl)pyrimidin-4(3H)-one K-1 (3 mg, 7.23 μmol, 23.49% yield) as a light yellow solid. LC/MS 407 (M+H)+, tR 0.92 min (method 5); 1H NMR (400 MHz, CHLOROFORM-d) δ 8.11 (1H, s), 7.28-7.41 (2H, m), 7.20-7.26 (1H, m), 7.13-7.19 (2H, m), 7.00 (1H, d), 6.85-6.90 (2H, m), 6.48 (1H, s), 3.88 (5H, br. s.), 2.60-2.66 (1H, m), 2.08-2.14 (1H, m), 1.75-1.81 (1H, m), 1.51-1.57 (1H, m), 1.37 (6H, s).

reactant | Tricyclohexyl phosphine | 9.24 μmol, 10 μL | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | 6-chloro-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-pyrimidin-4(3H)-one | ClC1=CC(N(C=N1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C15H17ClN2O4
reactant | 2-phenylcyclopropylboronic acid | 0.034 mmol, 5.5 mg | C1(=CC=CC=C1)C1C(C1)B(O)O | C9H11BO2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 0.16 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 6.16 μmol, 2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.07 mL | O | H2O
product | 3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-6-(2-phenylcyclopropyl)pyrimidin-4(3H)-one | 7.23 μmol, 3 mg, 23.49% yield | OC(COC1=C(C=C(C=C1)N1C=NC(=CC1=O)C1C(C1)C1=CC=CC=C1)OC)(C)C | C24H26N2O4
